US07612075B2
E. 7-Bromomethyl-4-chlorocinnoline.
A solution of 4-chloro-7-methylcinnoline (0.6 g, 3.37 mmol) in carbon tetrachloride (30 mL) is treated with N-bromosuccinimide (0.64 g, 3.4 mmol) and a catalytic amount of 70% benzoyl peroxide (0.22 g, 0.63 mmol). The solution is heated to 80° C. overnight, then filtered. The filtrate is concentrated in vacuo and the resulting residue is chromatographed (20% ethyl acetate/methyl chloride) to give the title compound (0.3 g, 1.2 mmol) and some unreacted starting material (0.1 g, 0.56 mmol). MS m/z: [M+H]+=257; 1H NMR (CDCl3, 300 MHz) δ9.35 (s, 1H), 8.55 (s, 1H), 8.2 (d, 1H), 8.85 (d, 1H), 4.75 (s, 2H).

reactant | 4-chloro-7-methylcinnoline | 3.37 mmol, 0.6 g | ClC1=CN=NC2=CC(=CC=C12)C | C9H7ClN2
reactant | N-bromosuccinimide | 3.4 mmol, 0.64 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.63 mmol, 0.22 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromomethyl-4-chlorocinnoline | 1.2 mmol, 0.3 g | BrCC1=CC=C2C(=CN=NC2=C1)Cl | C9H6BrClN2
